US04689327
A mixture of 2.22 g of N-methyl-2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide, 1.39 g of propionyl chloride, 2.53 g of triethylamine and 50 ml of toluene is refluxed for 2.5 days with stirring. The mixture is concentrated under reduced pressure to remove solvent. Water is added to the residue, and the aqueous mixture is extracted with ethyl acetate. The extract is washed with a saturated sodium bicarbonate solution and a saturated sodium chloride solution, successively. The ethyl acetate solution is dried and then concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:ethyl acetate=3:1). 0.30 g of N-methyl-N-propionyl-2-{2-[2-(4-(3-fluorophenyl)piperazine-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide is obtained as an oil.

reactant | N-methyl-2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide | 2.22 g | CNC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC(=CC=C1)F | C23H29FN4O2S
reactant | propionyl chloride | 1.39 g | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 2.53 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-propionyl-2-{2-[2-(4-(3-fluorophenyl)piperazine-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide | 0.30 g | CN(C(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC(=CC=C1)F)C(CC)=O | C26H33FN4O3S
